US07883713B2
Methyl [4-(2-pyridyl)phenyl]acetate
7.85 g (34.3 mmol) of methyl 4-bromophenylacetate are introduced under argon into 95 ml of toluene and, at room temperature, 7.97 g (61.7 mmol) of diisopropylethylamine, 9.50 g (37.7 mmol) of 2-trimethylstannylpyridine and 0.4 g (0.3 mmol) of tetrakis(triphenylphosphane)palladium(0) are added. The mixture is then heated under reflux for 18 h. Cooling is followed by washing with 100 ml each of 1N hydrochloric acid and saturated sodium bicarbonate solution. The organic phase was discarded. The acidic and the basic aqueous phase were neutralized and each extracted with 100 ml of dichloromethane, and the combined organic phases were dried over magnesium sulfate and freed of solvent in vacuo. Example VII is obtained after silica gel chromatography (toluene/ethyl acetate gradient 5: 1-1:1) as a colorless oil.

reactant | methyl 4-bromophenylacetate | 34.3 mmol, 7.85 g | BrC1=CC=C(C=C1)CC(=O)OC | C9H9BrO2
reactant | diisopropylethylamine | 61.7 mmol, 7.97 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-trimethylstannylpyridine | 37.7 mmol, 9.50 g | C[Sn](C1=NC=CC=C1)(C)C
solvent | toluene | 95 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl [4-(2-pyridyl)phenyl]acetate | N1=C(C=CC=C1)C1=CC=C(C=C1)CC(=O)OC | C14H13NO2
